US05071844
(S)-5,11-Dihydro-5-[1-(4-methoxyphenethyl)-2-pyrrolidinylmethyl]dibenzo[b,e][1,4]thiazepine
Potassium hydride (35% dispersion in oil, 229 mg) was added to a solution of 5,11-dihydrodibenzo[b,e][1,4]thiazepine (see U.S. Pat. No. 3,188,322 [Chem. Abs., 63, 8384h (1965)] and I. Udea and S. Umio, Bull. Chem. Soc. Japan, 48(8), 2323 (1975)) (425 mg) in DME (1,2-dimethoxyethane) (20 ml) and the mixture stirred at room temperature for 30 minutes, treated with a solution of (R)-3-chloro-1-(4-methoxyphenethyl)piperidine (see Preparation 1) (507 mg) in DME (5 ml) and heated under reflux for 18 hours. The mixture was cooled to room temperature, quenched with water and extracted with ethyl acetate. The organic layer was washed with water, dried over sodium sulphate and evaporated under reduced pressure. The residue was purified by chromatography on silica gel, performing a gradient elution using initially dichloromethane as eluant and changing to dichloromethane/saturated methanolic ammonia (98:2). The appropriate fractions were combined and evaporated under reduced pressure to give the title compound as a colourless oil, (100 mg, 12%), [α]58925 -60.9° (c=0.57 in ethanol).

reactant | Potassium hydride | 229 mg | [H-].[K+]
reactant | 5,11-dihydrodibenzo[b,e][1,4]thiazepine | C1=CC=CC=2NC3=C(SCC21)C=CC=C3 | C13H11NS
reactant | (R)-3-chloro-1-(4-methoxyphenethyl)piperidine | 507 mg | Cl[C@H]1CN(CCC1)CCC1=CC=C(C=C1)OC | C14H20ClNO
solvent | DME | 20 ml | COCCOC | C4H10O2
solvent | DME | 5 ml | COCCOC | C4H10O2
product | (S)-5,11-Dihydro-5-[1-(4-methoxyphenethyl)-2-pyrrolidinylmethyl]dibenzo[b,e][1,4]thiazepine | 100 mg, 12% | COC1=CC=C(CCN2[C@@H](CCC2)CN2C3=C(SCC4=C2C=CC=C4)C=CC=C3)C=C1 | C27H30N2OS
